US07932272B2
Quinoxaline-6-carboxylic Acid
To a solution of quinoxaline-6-carboxylic acid methyl ester (2084 mg, 11.07 mmol) in ethanol (25 mL) was added an aqueous solution of 1N sodium hydroxide (25 mL), and the solution was stirred for 4 hours under reflux. 1N Hydrochloric acid was added to the reaction mixture to adjust the pH to 4, then, the precipitated solid was collected by filtration, washed with water and isopropanol, then dried to obtain the title compound (1477 mg, 8.479 mmol, 76.6%) as a solid.

reactant | quinoxaline-6-carboxylic acid methyl ester | 11.07 mmol, 2084 mg | COC(=O)C=1C=C2N=CC=NC2=CC1 | C10H8N2O2
reactant | sodium hydroxide | 1N, 25 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Quinoxaline-6-carboxylic Acid | 8.479 mmol, 1477 mg, 76.6% | N1=CC=NC2=CC(=CC=C12)C(=O)O | C9H6N2O2
